US07105533B2
A solution of 1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-one (120 mg, 0.5 mmol) in benzene (1 mL) and 30% HBr/Acetic acid (1 mL) was cooled to 0° C. and was treated with a solution of bromine (0.024 mL, 0.5 mmol) in benzene (0.5 mL) over 1 h. The reaction was stirred for an additional 30 min, then poured into an iced solution of saturated aqueous NaHCO3 (100 mL), and the product was extracted into ethyl acetate (3×50 mL). The combined organic layers were dried (MgSO4) and concentrated to afford 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-one.

reactant | 1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-one | 0.5 mmol, 120 mg | COC=1C=C(C=CC1C1=NC=CC=C1)C(CC)=O | C15H15NO2
reactant | bromine | 0.5 mmol, 0.024 mL | BrBr | Br2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | benzene | 1 mL | C1=CC=CC=C1 | C6H6
solvent | HBr Acetic acid | 1 mL | Br.C(C)(=O)O
solvent | benzene | 0.5 mL | C1=CC=CC=C1 | C6H6
product | 2-bromo-1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-one | BrC(C(=O)C1=CC(=C(C=C1)C1=NC=CC=C1)OC)C | C15H14BrNO2
